US04162266
A Grignard compound is prepared from 80 g of vinyl bromide and 20 g of magnesium in 1 litre of tetrahydrofuran. To this Grignard compound there are added dropwise at room temperature 100 g of 3,3,5-trimethylcyclohexanone (dihydroisophorone) in 100 ml of tetrahydrofuran. The mixture is held at reflux temperature for 12 hours. The mixture is then cooled, treated with saturated ammonium chloride solution and extracted with ether. The organic phase is washed neutral with saturated sodium chloride solution, dried and evaporated. The crude product is distilled in a high vacuum (55° C./0.1 mm Hg). There are obtained 88.9 g of 1-vinyl-1-hydroxy-3,3,5-trimethyl-cyclohexane.

reactant | vinyl bromide | 80 g | C(=C)Br | C2H3Br
reactant | magnesium | 20 g | [Mg] | Mg
reactant | 3,3,5-trimethylcyclohexanone | 100 g | CC1(CC(CC(C1)C)=O)C | C9H16O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1 litre | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-vinyl-1-hydroxy-3,3,5-trimethyl-cyclohexane | 88.9 g | C(=C)C1(CC(CC(C1)C)(C)C)O | C11H20O
